US05475014
3[2-(1(S)-Hydroxy-3-cyanopropyl)benzothiazol-6-yl]-5(R)-methoxymethyl-2-oxazolidinone
2.0 g of 3-[2-(1(S)-hydroxy-3-carbamoylpropyl)benzothiazol-6-yl]-5(R)-methoxymethyl-2-oxazolidinone was suspended in a liquid mixture of 20 ml of 1,4-dioxane and 3.6 ml of pyridine. 2.0 ml of trifluoroacetic anhydride was added dropwise thereto under cooling with ice for 20 min. The resulting mixture was stirred at room temperature for 2 h and the reaction liquid was added to a saturated aqueous sodium hydrogencarbonate solution. After extraction with ethyl acetate, the organic layer was washed with dilute hydrochloric acid and then with a saturated aqueous common salt solution, and dried. The solvent was distilled off and the resulting residue was crystallized from acetone/water to give 1.6 g of the titled compound.

reactant | 3-[2-(1(S)-hydroxy-3-carbamoylpropyl)benzothiazol-6-yl]-5(R)-methoxymethyl-2-oxazolidinone | 2.0 g | O[C@@H](CCC(N)=O)C=1SC2=C(N1)C=CC(=C2)N2C(O[C@H](C2)COC)=O | C16H19N3O5S
reactant | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | trifluoroacetic anhydride | 2.0 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 3.6 ml | N1=CC=CC=C1 | C5H5N
product | 3[2-(1(S)-Hydroxy-3-cyanopropyl)benzothiazol-6-yl]-5(R)-methoxymethyl-2-oxazolidinone | 1.6 g | O[C@@H](CCC#N)C=1SC2=C(N1)C=CC(=C2)N2C(O[C@H](C2)COC)=O | C16H17N3O4S
